US09145392B2
Step 1: 5-Ethylpyrimidine-4,6-diol
To a stirred solution of sodium ethoxide (21% in ethanol, 349 mL, 1.06 mol) in dry ethanol (500 mL) was added formamidine acetate (30.4 g, 0.29 mol) in lots at 0° C. under nitrogen. The reaction mixture was stirred at this temperature for 15 min and then added a solution of diethyl-ethylmalonate (50.0 g, 0.26 mol) in ethanol (200 mL) in drops at 0° C. under nitrogen. The reaction mixture was stirred at RT for 14 h. After completion of the reaction, the reaction mixture was concentrated under reduced pressure. The crude residue was dissolved in water (250 mL) and acidified (pH ˜3 to 4) with aqueous solution HCl (1.5 N, 100 mL). The resulting solid was filtered off, washed with water (100 mL) and dried under vacuum to afford the titled compound (27.0 g, 72.5%) as white solid. LCMS: Mass found (M+, 141.0), 1H NMR (400 MHz, DMSO-d6) 11.54 (bs, 2H), 7.86 (s, 1H), 2.28-2.22 (m, 2H), 0.95-0.91 (m, 3H).

reactant | sodium ethoxide | 1.06 mol, 349 mL | [O-]CC.[Na+]
reactant | formamidine acetate | 0.29 mol, 30.4 g | C(C)(=O)O.C(=N)N
reactant | diethyl-ethylmalonate | 0.26 mol, 50.0 g | C(C)OC(C(C(=O)OCC)CC)=O | C9H16O4
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-Ethylpyrimidine-4,6-diol | 27.0 g, 72.5% | C(C)C=1C(=NC=NC1O)O | C6H8N2O2
